US09326973B2
Neat PCC was added to a stirred suspension of powdered 4 Å molecular sieve (˜0.5 g) in a solution of ethyl 2-(hydroxymethyl)tetrahydro-2H-pyran-2-carboxylate (165 mg, 0.877 mmol) in DCM (6 mL) and the mixture was stirred at rt 5 h. The suspension was filtered through a plug of silica gel and eluted with (0-2% EtOAc in DCM) afford ethyl 2-formyltetrahydro-2H-pyran-2-carboxylate. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 9.53 (s, 1H), 4.35-4.20 (m, 2H), 3.97-3.77 (m, 2H), 2.23-2.12 (m, 1H), 1.90-1.77 (m, 1H), 1.77-1.69 (m, 1H), 1.64-1.56 (m, 3H), 1.32 (t, J=7.2 Hz, 3H).

reactant | PCC | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
reactant | ethyl 2-(hydroxymethyl)tetrahydro-2H-pyran-2-carboxylate | 0.877 mmol, 165 mg | OCC1(OCCCC1)C(=O)OCC | C9H16O4
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
product | ethyl 2-formyltetrahydro-2H-pyran-2-carboxylate | C(=O)C1(OCCCC1)C(=O)OCC | C9H14O4
